US07553979B2
A solution of 1,3-dimethoxy-6,7,8,11,12,13-hexahydro-5,14-dioxa-benzocyclotridecen-15-one (95 mg, 0.30 mmol) and sodium thioethoxide (31 mg, 0.37 mmol) in dimethyl formamide was heated at 140° C. for 4 h whereby it was poored into water (100 ml). Extraction and chromatography gave 1-hydroxy-3-methoxy-6,7,8,11,12,13-hexahydro-5,14-dioxa-benzocyclotridecen-15-one (20 mg).

reactant | 1,3-dimethoxy-6,7,8,11,12,13-hexahydro-5,14-dioxa-benzocyclotridecen-15-one | 0.30 mmol, 95 mg | COC1=CC(=CC2=C1C(OCCCC=CCCCO2)=O)OC | C17H22O5
reactant | sodium thioethoxide | 0.37 mmol, 31 mg | [S-]CC.[Na+]
reactant | water | 100 ml | O | H2O
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | 1-hydroxy-3-methoxy-6,7,8,11,12,13-hexahydro-5,14-dioxa-benzocyclotridecen-15-one | 20 mg | OC1=CC(=CC2=C1C(OCCCC=CCCCO2)=O)OC | C16H20O5
